US06172057B2
2-(4-Methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-hexanoic acid hydroxyamide was prepared according to the method as outlined in Example 1. Starting from 2-(4-methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-hexanoic acid (0.31 g, 0.81 mmol) and hydroxylamine hydrochloride (0.70 g, 10 mmol), 0.13 g of the product isolated. Yield 37%; pale yellowish solid; mp 65° C.; MS: 392.9 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 0.80 (t, J=7.2 Hz, 3H), 1.10-1.25 (m, 2H), 1.25-1.50 (m, 2H), 1.70-2.00 (m, 2H), 3.53 (d, J=14.4 Hz, 1H), 3.62 (d, J=14.4 Hz, 1H), 3.88 (s, 3H), 7.15 (d, J=8.9 Hz, 2H), 7.71 (d, J=8.9 Hz, 2H), 7.90-8.00 (m, 1H), 8.40-8.45 (m, 1H), 8.70-8.85 (m, 2H), 11.0 (brs, 1H); IR (KBr, cm−1): 3064 m, 2958s, 2871 m, 1671 m.

reactant | 2-(4-methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-hexanoic acid | 0.81 mmol, 0.31 g | COC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CCCC)CC=1C=NC=CC1 | C19H23NO5S
reactant | hydroxylamine hydrochloride | 10 mmol, 0.70 g | Cl.NO
reactant | KBr | [K+].[Br-]
product | 2-(4-Methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-hexanoic acid hydroxyamide | Yield 37% | ONC(C(CCCC)(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C19H24N2O5S
